US04383945
To a solution of methyl 2-[(3R,4R)-3-isocyano-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate (106.9 mg) in tetrahydrofuran (2.1 ml) was added dropwise a solution of n-butyl lithium (0.375 ml of 1.38 M solution in hexane) at -78° C. After stirring for 15 minutes at -78° C., the reaction mixture was added with a solution of acetone (0.0385 ml) in tetrahydrofuran (0.3465 ml) at -78° C. After stirring for 25 minutes at -78° C., the reaction mixture was added with acetic acid (0.0493 ml) at -78° C., diluted with ethyl acetate (30 ml), and washed with chilled brine (10 ml), aqueous sodium bicarbonate (10 ml), brine (10 ml), and saturated aqueous sodium chloride (10 ml). After drying over magnesium sulfate, the ethyl acetate extract was filtered and evaporated in vacuo. The residual oil was chromatographed on silica gel (1.2 g) eluting with a mixture of ethyl acetate and hexane (1:5-1:3) to give methyl 2-[(3R,4R)-3-(1-hydroxy-1-methylethyl)-3-isocyano-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate (96.5 mg) as an oil.

reactant | methyl 2-[(3R,4R)-3-isocyano-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate | 106.9 mg | [N+](#[C-])[C@H]1C(N([C@@H]1CC=C)C(C(=O)OC)=C(C)C)=O | C13H16N2O3
reactant | n-butyl lithium | 1.38 M, 0.375 ml | C(CCC)[Li]
reactant | acetone | 0.0385 ml | CC(=O)C | C3H6O
reactant | acetic acid | 0.0493 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 2.1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.3465 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | methyl 2-[(3R,4R)-3-(1-hydroxy-1-methylethyl)-3-isocyano-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate | 96.5 mg | OC(C)(C)[C@]1(C(N([C@@H]1CC=C)C(C(=O)OC)=C(C)C)=O)[N+]#[C-] | C16H22N2O4
